US08212041B2
Methyl 2-fluoro-2-(quinolin-6-yl)acetate
To a 250 ml round-bottomed flask was added lithium bis(trimethylsilyl)amide (2.0 g, 12 mmol) and tetrahydrofuran (75 ml). The mixture was cooled to −78° C. and methyl 2-(quinolin-6-yl)acetate (2.0 g, 9.9 mmol) was added as a solution in 1 ml THF. After stirring at −78° C. for 30 min, n-fluorobenzenesulfonimide (3.8 g, 12 mmol) was added as a 1 M solution in THF. This was stirred for 30 min at −78° C. and then allowed to warm to rt. The mixture was quenched with sat NH4Cl (50 mL) and diluted with water (200 mL). The mixture was concentrated in vacuo to remove the THF and then was extracted with EtOAc (2×100 ml). The combined extracts were washed with brine (100 ml), dried (Na2SO4) and concentrated onto silica. Purification by silica gel chromatography (20 to 60% EtOAc/hexane) afforded the title compound as a tan solid. MS (ESI, pos. ion) m/z: 220 (M+1).

reactant | lithium bis(trimethylsilyl)amide | 12 mmol, 2.0 g | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | methyl 2-(quinolin-6-yl)acetate | 9.9 mmol, 2.0 g | N1=CC=CC2=CC(=CC=C12)CC(=O)OC | C12H11NO2
reactant | n-fluorobenzenesulfonimide | 12 mmol, 3.8 g | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | Methyl 2-fluoro-2-(quinolin-6-yl)acetate | FC(C(=O)OC)C=1C=C2C=CC=NC2=CC1 | C12H10FNO2
